US08859774B2
To a solution of (R)-methyl 1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (150 mg, 0.288 mmol) in dimethyl sulphoxide (4 mL) was added sodium methoxide (25% in methanol) (65.8 μl, 0.288 mmol) dropwise. The reaction mixture was stirred at room temperature for 1 hour, then allowed to stand at room temperature overnight. The crude product was purified by column chromatography on silica gel (gradient: 0-50% ethyl acetate in isohexane) to afford (R)-methyl 6-((3,5-difluoro-4-methoxyphenyl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (150 mg) as a pale yellow solid. LCMS (Method F, ES-API): RT 2.51 min, m+H=534.2.

reactant | (R)-methyl 1-(4-fluorophenyl)-6-((3,4,5-trifluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 0.288 mmol, 150 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C2=CC(=C(C(=C2)F)F)F | C24H19F4N3O4S
reactant | sodium methoxide | 0.288 mmol, 65.8 μl | C[O-].[Na+]
solvent | dimethyl sulphoxide | 4 mL | CS(=O)C | C2H6OS
product | (R)-methyl 6-((3,5-difluoro-4-methoxyphenyl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 150 mg | FC=1C=C(C=C(C1OC)F)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)OC | C25H22F3N3O5S
